US08026234B2
Compound 14: N-(Azepan-4-yl)-4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzamide
The title compound was synthesized from 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and tert-butyl 4-aminoazepane-1-carboxylate, where Boc was removed using TFA in DCM. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.41-1.65 (m, 4H) 1.65-1.83 (m, 3H) 1.83-1.99 (m, 4H) 2.07 (m., 2H) 3.16 (s, 3H) 3.32 (s, 3H) 3.93 (s, 3H) 4.07 (t, J=13.8 Hz, 3H) 4.78 (t, J=8.1 Hz, 1H) 7.41-7.54 (m, 2H) 8.14-8.29 (m, 2H) 8.31 (d, J=7.6 Hz, 1H) 8.55 (br. s., 2H). [M+H] calc'd for C27H35F2N7O3, 544. found 544.

reactant | 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl 4-aminoazepane-1-carboxylate | NC1CCN(CCC1)C(=O)OC(C)(C)C | C11H22N2O2
product | N-(Azepan-4-yl)-4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzamide | N1CCC(CCC1)NC(C1=CC(=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1)OC)=O | C27H35F2N7O3
